US07060844B2
A mixture of 2-bromo-N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide (63 mg, 0.15 mmol) in morpholine (1 ml) was stirred at 40° C. under nitrogen for 40 minutes. The mixture was poured into water (75 ml). The solid was filtered, washed with water and dried under vacuum to give N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-2-morpholin-4-yl-acetamide as a yellow solid (60 mg, 94%).

reactant | 2-bromo-N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-acetamide | 0.15 mmol, 63 mg | BrCC(=O)NC=1C=C2C(OCC2=CC1)=C1C(NC2=CC=C(C=C12)Cl)=O | C18H12BrClN2O3
reactant | water | 75 ml | O | H2O
solvent | morpholine | 1 ml | N1CCOCC1 | C4H9NO
product | N-[3-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-5-yl]-2-morpholin-4-yl-acetamide | 60 mg, 94% | ClC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=CC=C(C=C12)NC(CN1CCOCC1)=O | C22H20ClN3O4
